US08629160B2
A mixture of benzo[b]thiophen-3-ylboronic acid (300 mg, 1.68 mmol), phenylmethanamine (184 μl, 1.68 mmol) and 2-oxoacetic acid hydrate (155 mg, 1.68 mmol) in acetonitrile (20 ml) was stirred at room temperature for 2 hours. The solvent was removed and crude was triturated with Et2O/CH3CN (9/1) to obtain 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetic acid (303 mg, 60.5% yield).

reactant | benzo[b]thiophen-3-ylboronic acid | 1.68 mmol, 300 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | phenylmethanamine | 1.68 mmol, 184 μl | C1(=CC=CC=C1)CN | C7H9N
reactant | 2-oxoacetic acid hydrate | 1.68 mmol, 155 mg | O.O=CC(=O)O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(benzylamino)acetic acid | 303 mg, 60.5% yield | S1C2=C(C(=C1)C(C(=O)O)NCC1=CC=CC=C1)C=CC=C2 | C17H15NO2S
